US06469020B2
4-(R)-Benzyl-3-(2-(R)-acetylthiomethyl-3-methylbutyryl)oxazolidin-2-one
Potassium thioacetate (19 g) was added to a solution of the 4-(R)-benzyl-3-(2-iodomethyl-3-methylbutanoyl)oxazolidin-2-one (56 g) in N,N-dimethylformamide (200 ml), and the mixture was stirred for 3 h at room temperature, then poured into water (600 ml). The mixture was extracted with diethyl ether (2×500 ml) and the organic solvent washed with water and saturated brine, dried (Na2SO4) and evaporated to give the title compound as a pale amber oil (48.6 g).

reactant | Potassium thioacetate | 19 g | C(C)(=S)[O-].[K+]
reactant | 4-(R)-benzyl-3-(2-iodomethyl-3-methylbutanoyl)oxazolidin-2-one | 56 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(C(C(C)C)CI)=O | C16H20INO3
reactant | water | 600 ml | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-(R)-Benzyl-3-(2-(R)-acetylthiomethyl-3-methylbutyryl)oxazolidin-2-one | 48.6 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CSC(C)=O)=O | C18H23NO4S
